US04415489
A Zeolite A type of gel, containing excess sodium hydroxide, is made by reacting sodium hydroxide, alumina trihydrate, sodium silicate and water. Initially 995.2 parts of a 50% sodium hydroxide solution (containing 447.6 parts of NaOH) are mixed with sufficient water to make an aqueous sodium hydroxide solution containing 18% NaOH. 589.5 Parts of alumina trihydrate (containing 380.6 parts of Al2O3) are mixed with such sodium hydroxide solution in a pressure vessel by slow addition of the alumina trihydrate to the aqueous sodium hydroxide, after which the vessel is sealed, the pressure is raised to 4 kg./sq. cm. and the temperature is raised to 149° C., with mixing continuing. After 1/2 hour the sodium aluminate product resulting is cooled to 49° C. To a separate vessel, a larger capacity crutcher equipped with an agitator and containing 1872.1 parts of water and 222.7 parts of NaOH, an aqueous solution of sodium silicate, containing 391.8 parts SiO2, 211.2 parts of NaOH and 582.5 parts of water, is charged, the temperature is raised to 49° C. and the sodium silicate solution is recycled through a homogenizer. Then, the aqueous sodium aluminate reaction mixture is slowly added thereto over a 15 minute period, after the completion of which addition the temperature is raised to 93° C. by means of jacket steam. When the temperature has reached 93° C. open steam addition is utilized to raise the temperature to about 100° C., at which temperature the reaction mix is held an hour (with or without recycling and homogenizing) and also is filtered by means of a vacuum drum filter to produce a desired Zeolite A-sodium hydroxide-water mixture in filter cake form. The reaction mixture, as charged, includes 391.8 parts of SiO2, 380.6 parts of Al2O3, 881.5 parts of NaOH and 4706.5 parts of water. The reaction product includes 1,000 parts Zeolite A (anhydrous basis), 584.8 parts of NaOH and 4775.5 parts of water. After filtration the unwashed filter cake contains 1,000 parts of Zeolite A, 139.4 parts of NaOH and 1139.4 parts of water, corresponding to 43.88% of Zeolite A, 6.12% of NaOH and 50% of water. The sodium hydroxide is in solution on the zeolite particle surfaces and occluded therein. The mother liquor removed, which may be recycled, as by addition to the caustic to be used for manufacture of the sodium aluminate and also by addition in the gel making step (normally about 1/2 of the mother liquor being recycled to each such step), includes 455.4 parts of NaOH and 3636.1 parts of water, corresponding to 10.9% of NaOH and 89.1% of water.

reactant | NaOH | [OH-].[Na+]
reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium aluminate | O=[Al-]=O.[Na+]
solvent | water | O | H2O
product | Zeolite A sodium hydroxide water | O.[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Na+].[Na+].[Al+3].[Al+3].[Si+4].[OH-].[Na+].O | InChI=1S/2Al.3Na.3H2O.6O.Si/h;;;;;3*1H2;;;;;;;/q2*+3;3*+1;;;;6*-2;+4/p-1
